US07547680B2
2-Hydroxy-4-phenylbenzaldehyde oxime
2-Hydroxy-4-phenylbenzaldehyde (3.7 g), hydroxylamine hydrochloride (1.4 g), sodium acetate (3.1 g) and water (10 mL) were suspended in ethanol (50 mL), and the mixture was stirred at 80° C. for 3 hours. To the reaction mixture was added water (50 mL), and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give the title compound (3.0 g).

reactant | 2-Hydroxy-4-phenylbenzaldehyde | 3.7 g | OC1=C(C=O)C=CC(=C1)C1=CC=CC=C1 | C13H10O2
reactant | hydroxylamine hydrochloride | 1.4 g | Cl.NO
reactant | sodium acetate | 3.1 g | C(C)(=O)[O-].[Na+]
reactant | water | 10 mL | O | H2O
reactant | water | 50 mL | O | H2O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-Hydroxy-4-phenylbenzaldehyde oxime | 3.0 g | OC1=C(C=NO)C=CC(=C1)C1=CC=CC=C1 | C13H11NO2
